US07129238B2
A suspension of (S)-[(4-{[2-(2,6-difluoro-4-methoxy-phenyl)-2-methoxy-acetylamino]-methyl}-phenyl)-imino-methyl]-carbamic acid tert-butyl ester in water was treated with formic acid. The solution was stirred for 8 hrs at rt, then concentrated, redissolved twice in water, concentrated and dried to give (S)-N-(4-carbamimidoyl-benzyl)-2-(2,6-difluoro-4-methoxy-phenyl)-2-methoxy-acetamide formiate (78 mg) as white foam. MS 364.1 ([M+H]+)

reactant | (S)-[(4-{[2-(2,6-difluoro-4-methoxy-phenyl)-2-methoxy-acetylamino]-methyl}-phenyl)-imino-methyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(=N)C1=CC=C(C=C1)CNC([C@@H](OC)C1=C(C=C(C=C1F)OC)F)=O)=O | C23H27F2N3O5
reactant | formic acid | C(=O)O | CH2O2
solvent | water | O | H2O
product | (S)-N-(4-carbamimidoyl-benzyl)-2-(2,6-difluoro-4-methoxy-phenyl)-2-methoxy-acetamide | 78 mg | C(N)(=N)C1=CC=C(CNC([C@@H](OC)C2=C(C=C(C=C2F)OC)F)=O)C=C1 | C18H19F2N3O3
